US07335687B2
A solution of 1.0 g (3.04 mmol) of trans-4-(5-Bromo-pentyl)-cyclohexylammonium bromide in 12 ml CH2Cl2 was first cooled at 0° C., treated with 0.8 g (3.27 mmol) 4-(trifluoromethyl)benzenesulfonylchloride and then with 1.2 ml (7.01 mmol; 2.3 equivalents) of Hünigsbase (during 30 min). After total 1.5 h at 0° C., the mixture was dissolved in aqueous 10% KHSO4/TBME (3×). The organic phases were washed with aqueous saturated NaHCO3 and aqueous 10% NaCl, dried over Na2SO4 and evaporated to give 1.38 g crude product which was crystallized (CH2Cl2/hexane) to give 1.26 g (91%) of pure trans-N-[4-(5-Bromo-pentyl)-cyclohexyl]-4-trifluoromethyl-benzenesulfonamide, MS: 454 (M−H−, 1Br).

reactant | trans-4-(5-Bromo-pentyl)-cyclohexylammonium bromide | 3.04 mmol, 1.0 g | [Br-].BrCCCCC[C@@H]1CC[C@H](CC1)[NH3+]
reactant | 4-(trifluoromethyl)benzenesulfonylchloride | 3.27 mmol, 0.8 g | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
solvent | KHSO4 TBME | OS(=O)(=O)[O-].[K+].CC(C)(C)OC
product | trans-N-[4-(5-Bromo-pentyl)-cyclohexyl]-4-trifluoromethyl-benzenesulfonamide | 1.26 g, 91% | BrCCCCC[C@@H]1CC[C@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C18H25BrF3NO2S
